US06946559B2
Production of 4-bromobenzaldehyde
n-Butylmagnesium chloride (4.00 mmol) in 2.00M tetrahydrofuran solution (2.00 mL) was added to ice-cooled n-butyllithium (8.06 mmol) in 1.55M hexane (5.20 mL). The mixture was stirred at 0° C. for 15 minutes to give a suspension. To the suspension was added dropwise a toluene solution (25 mL) containing 1,4-dibromobenzene (2.36 g, 10 mmol) over a period of 15 minutes, while keeping the temperature below 5° C., to give a white suspension. After the suspension was stirred at 0° C. for 5 hours, N,N-dimethylformamide (1.0 mL, 13 mmol) was added thereto. The resultant mixture was stirred at 0° C. for 30 minutes, and 10% acetic acid solution (20 mL) was added. The organic phase was separated and the aqueous phase was extracted with toluene (20 mL). The organic layers were combined, washed with water (20 mL), and dried over magnesium sulfate. Toluene was added to the solution to a volume of 100 mL. The solution (98 ml) was purified by flash column chromatography on silica gel in a developing solvent system of hexane-ethyl acetate (30:1, v/v) to give the title compound (1.507 g, 81% yield) as a colorless crystalline solid.

reactant | n-Butylmagnesium chloride | 4.00 mmol | C(CCC)[Mg]Cl
reactant | n-butyllithium | 8.06 mmol | C(CCC)[Li]
reactant | 1,4-dibromobenzene | 10 mmol, 2.36 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | N,N-dimethylformamide | 13 mmol, 1.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2.00M, 2.00 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.55M, 5.20 mL | CCCCCC | C6H14
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromobenzaldehyde | 1.507 g, 81% yield | BrC1=CC=C(C=O)C=C1 | C7H5BrO
